### PR TITLE
[Merged by Bors] - feat: `IsClopen.of_thickening_subset_self`

### PR DESCRIPTION
**Pull request by j-loreaux**
---

From [LeanOA](https://github.com/j-loreaux/LeanOA)

Although this may seem like a niche result, I do indeed have a use case: showing that finite products of exponential unitaries in a C⋆-algebra are clopen, and therefore coincide with the path component of the identity (since the unitary group is locally path connected). 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/MetricSpace/Thickening.lean [hunk 1]
```diff
@@ -646,6 +646,27 @@ theorem thickening_ball [PseudoMetricSpace α] (x : α) (ε δ : ℝ) :
...
+
+variable [PseudoMetricSpace α] {s : Set α}
+
+lemma IsClopen.of_thickening_subset_self {α : Type*} [PseudoMetricSpace α] {s : Set α}
+    {δ : ℝ} (hδ : 0 < δ) (hs : thickening δ s ⊆ s) :
+    IsClopen s := by
+  replace hs : thickening δ s = s := le_antisymm hs (self_subset_thickening hδ s)
+  refine ⟨?_, hs ▸ isOpen_thickening⟩
+  rw [← closure_subset_iff_isClosed, closure_eq_iInter_thickening]
+  exact Set.biInter_subset_of_mem hδ |>.trans_eq hs
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/Thickening.lean]: I'm a bit sad that this is not the uniform statement, but we have no API for uniform thickenings so I don't think it's worth the trouble.

File: Mathlib/Topology/MetricSpace/Thickening.lean [hunk 2]
```diff
@@ -646,6 +646,27 @@ theorem thickening_ball [PseudoMetricSpace α] (x : α) (ε δ : ℝ) :
 
 end Metric
 
+section Clopen
+
+open Metric
+
+variable [PseudoMetricSpace α] {s : Set α}
```
Comment (ADedecker) [inline Mathlib/Topology/MetricSpace/Thickening.lean]: Why put it again in the lemmas? Also, does it work for `PseudoEmetricSpace`?

**Review by ADedecker — APPROVED** [review]
Thanks!

bors d+

File: Mathlib/Topology/MetricSpace/Thickening.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Topology/MetricSpace/Thickening.lean]: Yeah, I thought about that too, but realized we only have `Metric.thickening` :sad:

File: Mathlib/Topology/MetricSpace/Thickening.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/Topology/MetricSpace/Thickening.lean]: oops, and yes, generalized.

**Comment by j-loreaux** [comment]
bors merge
